US06951879B2
According to the method in example 10, 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole 1,1-dioxide and Piperidine were converted to yield 3-(4-Chloro-phenyl)-6-(4-piperidin-1-yl-butoxy)-benzo[d]isothiazole 1,1-dioxide, MS: 433 (MH+, 1Cl).

reactant | 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole 1,1-dioxide | BrCCCCOC1=CC2=C(C(=NS2(=O)=O)C2=CC=C(C=C2)Cl)C=C1 | C17H15BrClNO3S
reactant | Piperidine | N1CCCCC1 | C5H11N
product | 3-(4-Chloro-phenyl)-6-(4-piperidin-1-yl-butoxy)-benzo[d]isothiazole 1,1-dioxide | ClC1=CC=C(C=C1)C1=NS(C2=C1C=CC(=C2)OCCCCN2CCCCC2)(=O)=O | C22H25ClN2O3S
